US05068371
3-(2,4-Difluorophenyl)propanoic acid
33 g (0.154 mol) of ethyl 3-(2,4-difluorophenyl)propanoate are suspended in 250 ml of water. 60 ml of 10N sodium hydroxide solution and 30 ml of 40% tetrabutylammonium hydroxide solution are then added. The mixture is stirred vigorously and warmed. Everything has dissolved at about 50° C. The mixture is warmed further to 80° C. and then cooled to 5° C. On dropwise addition of 80 ml of concentrated hydrochloric acid, white crystals precipitate, which are filtered off and washed with ice-water. After drying in vacuo, 28.1 g (98% of theory) of white crystals of melting point 107°-108° C., which does not change even after recrystallization from 50% ethanol, are obtained.

reactant | ethyl 3-(2,4-difluorophenyl)propanoate | 0.154 mol, 33 g | FC1=C(C=CC(=C1)F)CCC(=O)OCC | C11H12F2O2
reactant | sodium hydroxide | 10N, 60 ml | [OH-].[Na+]
reactant | tetrabutylammonium hydroxide | 30 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 80 ml | Cl | ClH
solvent | water | 250 ml | O | H2O
product | 3-(2,4-Difluorophenyl)propanoic acid | FC1=C(C=CC(=C1)F)CCC(=O)O | C9H8F2O2
